US04863920
2.21 g (6.9 mmol) of (S)-8-chloro-1-[(Z)-2-chlorovinyl]-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one was heated to boiling under reflux for 4 hours together with 1.23 ml (8.3 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene in 30 ml of N,N-dimethylformamide. The reaction mixture was subsequently poured into 300 ml of water and extracted five times with methylene chloride. The organic extracts were washed four times with water, dried over magnesium sulphate and evaporated. After chromatography on silica gel while eluting with ethyl acetate and subsequent recrystallization from ethyl acetate there was obtained (S)-8-chloro-1-ethynyl-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4benzodiazepin-9-one of melting point 249°-250°.

reactant | (S)-8-chloro-1-[(Z)-2-chlorovinyl]-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 6.9 mmol, 2.21 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3\C=C/Cl)CC1)=O | C15H11Cl2N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 8.3 mmol, 1.23 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,4benzodiazepin-9-one | N=1C=CN=CC=2C1C(C=CC2)=O | C9H6N2O
